US05252732
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(1-methylindol-6-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of tri[1-methylindol-6-yl]-bismuthine (200 mg., 0.33 mmol.) in CH2Cl2 (2 mL.) at room temperature was added peracetic acid (0.070 mL., 32% in acetic acid) followed in 15 minutes by 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (150 mg., 0.19 mmol.) and Cu(OAc)2 (30 mg.). The reaction mixture was stirred for 4 days. The reaction was then quenched with saturated NaHCO3 and the mixture extracted with CH2Cl2. The organic extracts were combined, dried over Na2SO4, filtered, and concentrated in vacuo. The product was isolated and purified by preparative TLC on silica gel (2:1, hexane/acetone) to give 76 mg. of the title compound. Partial 1H NMR (CDCl, 400 MHz) d: 7.44 (d, J=7 Hz, 1H); 6.91 (d, J=3 Hz, 1H) 6.88 (d, J=2 Hz, 1H); 6.81 (m, 1H); 6.37 (d, J=3, 1H); 3.68 (s, 3H); 3.51 (s, 3H).

reactant | tri[1-methylindol-6-yl]-bismuthine | 0.33 mmol, 200 mg | CN1C=CC2=CC=C(C=C12)[Bi](C1=CC=C2C=CN(C2=C1)C)C1=CC=C2C=CN(C2=C1)C
reactant | peracetic acid | 0.070 mL | C(C)(=O)OO | C2H4O3
reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.19 mmol, 150 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 30 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(1-methylindol-6-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC=C1C=CN(C1=C2)C)OC)C)C)O)=O | C52H76N2O12
